US09062070B2
Step B: (S)-tert-butyl 3-(acetylthiomethyl)-4-((R)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)piperazine-1-carboxylate
To the solution of (S)-tert-butyl 4-((R)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)-3-(hydroxymethyl)piperazine-1-carboxylate (817 mg, 2.01 mmol) in anhydrous THF (20 mL) under nitrogen atmosphere at 0° C. was added anhydrous triethylamine (0.560 mL, 4.02 mmol), followed by addition of methanesulfonyl chloride (0.234 mL, 3.01 mmol) and 4-dimethylaminopyridine (24.6 mg, 0.201 mmol). The ice bath removed and reaction mixture was stirred for 2 hours. Resulting mixture was then concentrated under reduced pressure. Resulting oil was redissolved in anhydrous DMSO (13 mL) and treated with potassium thioacetate (1235 mg, 10.81 mmol). The reaction mixture was stirred at room temperature under nitrogen for 2 hours. The mixture was diluted with ethyl acetate, washed with water (3 times), brine, and dried (MgSO4), filtered and concentrated. The crude product was purified on Biotage SP1 (40+M equilibrated), eluting with 20-80% ethyl acetate/hexanes, 20 CV. LC/MS: [(M+1)]+=465.2.

reactant | (S)-tert-butyl 4-((R)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)-3-(hydroxymethyl)piperazine-1-carboxylate | 2.01 mmol, 817 mg | O[C@@H](CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CO)C=1C(=C2COC(C2=CC1)=O)C | C21H30N2O6
reactant | triethylamine | 4.02 mmol, 0.560 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.01 mmol, 0.234 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium thioacetate | 10.81 mmol, 1235 mg | C(C)(=S)[O-].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.201 mmol, 24.6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMSO | 13 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-tert-butyl 3-(acetylthiomethyl)-4-((R)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)piperazine-1-carboxylate | C(C)(=O)SC[C@@H]1CN(CCN1C[C@@H](C=1C(=C2COC(C2=CC1)=O)C)O)C(=O)OC(C)(C)C | C23H32N2O6S
